US09428510B2
64.3 ml of hydrochloric acid is added at −5° C. to 7.7 g (31.3 mmol) of 3-amino-6-iodopyrazine-2-carbonitrile. At this temperature, a sodium nitrite solution (4.32 g, 62.6 mmol) dissolved in 9 ml of water is added to the reaction mixture and is stirred for 4 hours at −50° C. and then at room temperature overnight. Another equivalent of sodium nitrite is added to the reaction mixture and the precipitate formed is filtered, rinsed with water and dried at 50° C. to yield 3.65 g (44%) of 3-chloro-6-iodopyrazine-2-carbonitrile in the form of a beige solid.

reactant | hydrochloric acid | 64.3 ml | Cl | ClH
reactant | 3-amino-6-iodopyrazine-2-carbonitrile | 31.3 mmol | NC=1C(=NC(=CN1)I)C#N | C5H3IN4
reactant | sodium nitrite | 62.6 mmol, 4.32 g | N(=O)[O-].[Na+]
solvent | water | 9 ml | O | H2O
product | 3-chloro-6-iodopyrazine-2-carbonitrile | 3.65 g, 44% | ClC=1C(=NC(=CN1)I)C#N | C5HClIN3
